US09023858B2
A) bis(2,4-dimethoxybenzyl)amine
A solution of 2,4-dimethoxybenzylamine (8.98 mL) and 2,4-dimethoxybenzaldehyde (9.94 g) in ethanol (200 mL) was stirred at room temperature for 2 hr. To the reaction mixture was added sodium triacetoxyborohydride (20.3 g), and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added water, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (8 g).

reactant | 2,4-dimethoxybenzylamine | 8.98 mL | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | 2,4-dimethoxybenzaldehyde | 9.94 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | sodium triacetoxyborohydride | 20.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | bis(2,4-dimethoxybenzyl)amine | 8 g | COC1=C(CNCC2=C(C=C(C=C2)OC)OC)C=CC(=C1)OC | C18H23NO4
